US07700655B2
(1) 3,5-Bis(trifluoromethyl)-1-(3-nitrophenyl)pyrazole
Using hexafluoroacetylacetone and 3-nitrophenylhydrazine hydrochloride as the raw materials, the same operation as the Example 538(1) gave the title compound.

reactant | hexafluoroacetylacetone | C(C(=O)C(F)(F)F)C(=O)C(F)(F)F | C5H2F6O2
reactant | 3-nitrophenylhydrazine hydrochloride | Cl.[N+](=O)([O-])C=1C=C(C=CC1)NN
product | 3,5-Bis(trifluoromethyl)-1-(3-nitrophenyl)pyrazole | Yield: 94.0% | FC(C1=NN(C(=C1)C(F)(F)F)C1=CC(=CC=C1)[N+](=O)[O-])(F)F | C11H5F6N3O2
